US07825137B2
To a solution of 4-(4-{6-amino-5-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (11.8 g, 21.45 mmol) in CH2Cl2 (59 mL, 0.2M) was added 4N HCl/Dioxane (21 mL). The solution was stirred overnight forming a solid. The solid was crushed thoroughly with a glass rod and sonicated to release starting material trapped in the solid. Additional 4N HCl/Dioxane (21 mL) was added and stirred for another 2 hours at room temperature in which LCMS showed no starting material. The suspension was filtered in a Buchner funnel lined with filter paper. The mother liquor was saved because it contained <5% of product. The solid was transferred to a 500 mL beaker and HPLC water was added until the solid dissolved completely. The pH was adjusted to 10 with the addition of solid Na2CO3. The water solution was extracted with CH2Cl2 (5×200 mL) or until LCMS showed no product in the aqueous layer. The CH2Cl2 solution was dried over Na2SO4 and concentrated. The crude product, re-dissolved in CH2Cl2 (10 mL) and MeOH (1 mL), was purified on a silica gel column eluting with CH2Cl2/MeoH/NEt3 system (Biotage 40+Column: equilibrium 600 mL CH2Cl2 100% giving byproduct, segment 1: 1200 mL 10% MeOH/CH2Cl2 linear, segment 2: 2400 mL 10% MeOH/CH2Cl2 step, segment 3: 2400 mL 9% MeOH/1% NEt3/CH2Cl2). The desired fractions were collected to provide 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyridin-2-ylamine (7.19 g, 75% combined yield, white solid). MS m/e 450 (M+1)+. 1H NMR (DMSO-d6, 400 MHz) δ 7.92 (s, 1H), 7.76 (s, 1H), 7.58 (m, 1H), 7.53 (s, 1H), 7.45 (m, 1H), 6.90 (s, 1H), 6.10 (m, 1H), 5.55 (bs, 2H), 4.14 (m, 1H), 3.05 (m, 2H), 2.58 (m, 2H), 1.94 (m, 2H), 1.80 (d, 3H), 1.76 (m, 2H).

reactant | 4-(4-{6-amino-5-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-pyridin-3-yl}-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 21.45 mmol, 11.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C=1C=NC(=C(C1)O[C@H](C)C1=C(C(=CC=C1Cl)F)Cl)N | C26H30Cl2FN5O3
reactant | HCl Dioxane | 4N, 21 mL | Cl.O1CCOCC1
reactant | HCl Dioxane | 4N, 21 mL | Cl.O1CCOCC1
solvent | CH2Cl2 | 0.2M, 59 mL | C(Cl)Cl | CH2Cl2
product | 3-[(R)-1-(2,6-dichloro-3-fluoro-phenyl)-ethoxy]-5-(1-piperidin-4-yl-1H-pyrazol-4-yl)-pyridin-2-ylamine | 7.19 g, 75% | ClC1=C(C(=CC=C1F)Cl)[C@@H](C)OC=1C(=NC=C(C1)C=1C=NN(C1)C1CCNCC1)N | C21H22Cl2FN5O
